US05153227
4-Phenoxyaniline (30 g, 162 mmol) was added in portions to a stirred solution of 98% w/v sulphuric acid (93 ml) in water (480 ml). The mixture was heated at 80° C. for 30 minutes and then cooled to 0°-5° C. A solution of sodium nitrite (13.5 g, 196 mmol) in water (60 ml) was added dropwise and the mixture was stirred for 45 minutes at 0° C. The excess nitrous acid was destroyed with sulphamic acid. The solution was added to a stirred mixture of 2-mercaptoacetic acid (14.7 ml, 211 mmol), basic copper carbonate (10.8 g, 49 mmol) and acetone (180 ml) at 0° C. The mixture was warmed to ambient temperature. After 1 hour ethyl acetate (200 ml) was added and the insoluble material was removed by filtration. The filtrate was extracted with ethyl acetate. The combined extracts were then extracted with a saturated solution of sodium hydrogen carbonate. The combined aqueous extracts were acidified to pH 2 by the addition of 2M hydrochloric acid and extracted with ethyl acetate. The combined extracts were washed with brine and dried (MgSO4). The solvent was removed by evaporation to give 4-phenoxyphenylthioacetic acid as an oil (12.3 g) having a satisfactory NMR spectrum (200 MHz, CDCl3); 3.61 (s,2H), 6.93-7.46 (m,9 aromatic H), after purification by flash chromatography on silica (Merck Kieselgel Art 9385) using ethyl acetate/dichloromethane (1:1 v/v).

reactant | 4-Phenoxyaniline | 162 mmol, 30 g | O(C1=CC=CC=C1)C1=CC=C(N)C=C1 | C12H11NO
reactant | sulphuric acid | 93 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 196 mmol, 13.5 g | N(=O)[O-].[Na+]
reactant | 2-mercaptoacetic acid | 211 mmol, 14.7 ml | SCC(=O)O | C2H4O2S
solvent | water | 480 ml | O | H2O
solvent | water | 60 ml | O | H2O
catalyst | copper carbonate | 49 mmol, 10.8 g | C([O-])([O-])=O.[Cu+2]
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | acetone | 180 ml | CC(=O)C | C3H6O
product | 4-phenoxyphenylthioacetic acid | 12.3 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)CC(=S)O | C14H12O2S
